US07572805B2
Part E. (E)-Ethyl 2-chloro-6-(3-methoxy-3-oxoprop-1-enyl)-4-propylbenzoate
To a suspension of hexane-washed sodium hydride (0.14 g of 60% suspension in mineral oil, 3.45 mmol) in 20 mL of THF was added trimethyl phosphonoacetate (0.56 mL, 3.45 mmol). The resulting mixture was stirred for 30 min at ambient temperature, at which time a white slurry was obtained. To this slurry was added ethyl 2-chloro-6-formyl-4-propylbenzoate (0.80 g, 3.14 mmol) dropwise in 5 mL of THF. The resulting solution was stirred at ambient temperature for 1 h, at which time the mixture had become homogeneous. The reaction mixture was quenched with water and extracted with ethyl acetate. The organics were washed sequentially with 1N HCl, sat'd aq NaHCO3 and brine, dried (MgSO4), filtered through a pad of silica gel and concentrated in vacuo to afford 0.92 g (95%) of the title compound which was sufficiently pure to be used without purification. 1H NMR (CDCl3): δ 7.58 (d, 1H, J=15.9 Hz), 7.25 (s, 1H), 7.18 (s, 1H), 6.33 (d, 1H, J=15.9 Hz), 4.40 (q, 2H, J=7.2 Hz), 3.73 (s, 3H), 2.52 (t, 2H, J=7.5 Hz), 1.60-1.52 (m, 2H), 1.35 (t, 3H, J=7.1 Hz), 0.88 (t, 3H, J=7.4 Hz). LRMS (ESI): 333.1 (M+H+Na)+.

reactant | hexane | CCCCCC | C6H14
reactant | sodium hydride | 3.45 mmol, 0.14 g | [H-].[Na+]
reactant | trimethyl phosphonoacetate | 3.45 mmol, 0.56 mL | COC(=O)CP(=O)(OC)OC | C5H11O5P
reactant | ethyl 2-chloro-6-formyl-4-propylbenzoate | 3.14 mmol, 0.80 g | ClC1=C(C(=O)OCC)C(=CC(=C1)CCC)C=O | C13H15ClO3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (E)-Ethyl 2-chloro-6-(3-methoxy-3-oxoprop-1-enyl)-4-propylbenzoate | 0.92 g, 95% | ClC1=C(C(=O)OCC)C(=CC(=C1)CCC)\C=C\C(=O)OC | C16H19ClO4
